US05541324
3,3-Dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoxalin-2-one (IV)
N-(5-Fluoro-2-nitrophenyl)-2-methylalanine is taken up in approximately 1 L of ethanol and divided into two lots for reduction. The reductions are done with 1.7-1.9 g of palladium on carbon (10%) under hydrogen at initial pressures of 41 and 43 psi. After 4 hr the reaction is judged complete and the catalyst is filtered off. The filtrates are combined after concentration (with heating) to about 100 ml, then further concentrated. The crude product is chromatographed on silica gel (900 ml) eluting with ethyl acetate/dichloromethane (20/80), the appropriate fractions are pooled and concentrated to give the title compound which is crystallized from methanol/dichloromethane/hexane, mp 146°-148°.

reactant | N-(5-Fluoro-2-nitrophenyl)-2-methylalanine | FC=1C=CC(=C(C1)NC(C)(C(=O)O)C)[N+](=O)[O-] | C10H11FN2O4
solvent | ethanol | approximately 1 L | C(C)O | C2H6O
catalyst | palladium on carbon | 1.7-1.9 g | [Pd] | Pd
product | 3,3-Dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoxalin-2-one | CC1(C(NC2=CC=C(C=C2N1)F)=O)C | C10H11FN2O
